US07855297B2
By the reaction and treatment in the same manner as in Example 82 using 4-benzyloxy-N-(2,4-dimethoxyphenyl)indan-1-carboxamide (0.96 g) and 1-(tert-butyloxycarbonyl)-4-(hydroxymethyl)pyrazole (0.47 g) as starting materials, 4-benzyloxy-N-(2,4-dimethoxyphenyl)-N-[(pyrazol-4-yl)methyl]indan-1-carboxamide (0.43 g) was obtained. By the reaction and treatment in the same manner as in Example 271 using this compound (0.43 g) and ethyl iodide (0.28 mL), 4-benzyloxy-N-(2,4-dimethoxyphenyl)-N-[(1-ethylpyrazol-4-yl)methyl]indan-1-carboxamide (0.36 g) was obtained. By the reaction and treatment in the same manner as in Example 17 using this compound (0.36 g), N-(2,4-dimethoxyphenyl)-N-[(1-ethylpyrazol-4-yl)methyl]-4-hydroxyindan-1-carboxamide (0.21 g) was obtained.

reactant | 4-benzyloxy-N-(2,4-dimethoxyphenyl)indan-1-carboxamide | 0.96 g | C(C1=CC=CC=C1)OC1=C2CCC(C2=CC=C1)C(=O)NC1=C(C=C(C=C1)OC)OC | C25H25NO4
reactant | 1-(tert-butyloxycarbonyl)-4-(hydroxymethyl)pyrazole | 0.47 g | C(C)(C)(C)OC(=O)N1N=CC(=C1)CO | C9H14N2O3
product | 4-benzyloxy-N-(2,4-dimethoxyphenyl)-N-[(pyrazol-4-yl)methyl]indan-1-carboxamide | 0.43 g | C(C1=CC=CC=C1)OC1=C2CCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C1=C(C=C(C=C1)OC)OC | C29H29N3O4
